US05162322
5-[4-[4-(2-Methoxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone dihydrochloride.
Following the procedures of Example 1, the title compound is prepared. Thus, a mixture of 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone (5.0 g, 0.0262 mol), 1-(2-methoxyphenyl)piperazine (5.4 g. 0.0279 mol), potassium carbonate (8.5 g, 0.0614 mol), and potassium iodide (0.75 g) in 1-butanol (50 ml) gave 6.8 g of oil which was dissolved in hot methanol and acidified with methanolic hydrogen chloride. Addition of isopropyl ether and isopropanol to the cloud point and cooling gave a solid which was collected by filtration, rinsed with isopropyl ether and light pet ether and dried under high vacuum to give 4.22 g (38% yield), mp 209°-216° C.

reactant | 5-(4-chlorobutyl)-3-methyl-2-oxazolidinone | 0.0262 mol, 5.0 g | ClCCCCC1CN(C(O1)=O)C | C8H14ClNO2
reactant | 1-(2-methoxyphenyl)piperazine | 0.0279 mol, 5.4 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 0.0614 mol, 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.75 g | [I-].[K+]
solvent | 1-butanol | 50 ml | C(CCC)O | C4H10O
product | 5-[4-[4-(2-Methoxyphenyl)-1-piperazinyl]butyl]-3-methyl-2-oxazolidinone dihydrochloride | 38% yield | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCCC1CN(C(O1)=O)C | InChI=1S/C19H29N3O3.2ClH/c1-20-15-16(25-19(20)23)7-5-6-10-21-11-13-22(14-12-21)17-8-3-4-9-18(17)24-2;;/h3-4,8-9,16H,5-7,10-15H2,1-2H3;2*1H
